US09371320B2
F) 3-bromo-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one
To a suspension of 3-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one (2.0 g) and triethylsilane (1.27 g) was added trifluoroacetic acid (17.31 mL) at room temperature, and the mixture was stirred under nitrogen atmosphere at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, to the residue were added acetonitrile (11 mL) and aqueous ammonia solution (25%, 11 mL), and the mixture was stirred at room temperature for 2 hr. The precipitate was collected by filtration, and washed with acetonitrile and ethyl acetate to give the title compound (1.06 g).

reactant | 3-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one | 2.0 g | BrC1=CN(C2=C1C(NC=C2)=O)COCC[Si](C)(C)C | C13H19BrN2O2Si
reactant | triethylsilane | 1.27 g | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 17.31 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-bromo-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one | 1.06 g | BrC1=CNC2=C1C(NC=C2)=O | C7H5BrN2O
